US07846959B2
A solution of dimethylsulfoxide (71 μL, 1.0 mmol) in dichloromethane (1.5 mL) was cooled to −60° C. Addition of oxalyl chloride (44 μL, 0.50 mmol) was followed by addition of triethylamine (0.29 mL, 2.1 mmol) and 2-(hydroxy{1-[tris(1-methylethyl)silyl]-1H-indazol-5-yl}methyl)benzonitrile (0.17 g, 0.42 mmol in 2.0 mL of dichloromethane). The solution was allowed to warm to room temperature then diluted with ethyl acetate and saturated aqueous sodium bicarbonate. The layers were separated and the aqueous layer was extracted (2×100 mL ethyl acetate). The combined organic layers were dried (sodium sulfate), filtered and concentrated in vacuo. Column chromatography (silica gel, 5:1 hexanes/ethyl acetate) gave 0.070 g (42%) of 2-({1-[tris(1-methylethyl)silyl]-1H-indazol-5-yl}carbonyl)benzonitrile. 1H NMR (400 MHz, CDCl3): 8.32 (d, 1H), 8.13 (m, 1H), 8.01 (dd, 1H), 7.87 (m, 1H), 7.68 (m, 5H), 1.81 (m, 3H), 1.13 (d, 18H); MS (EI) for C24H29N3OSi: 248 (M-Si(iPr)3).

reactant | dimethylsulfoxide | 1.0 mmol, 71 μL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.50 mmol, 44 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 2.1 mmol, 0.29 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(hydroxy{1-[tris(1-methylethyl)silyl]-1H-indazol-5-yl}methyl)benzonitrile | 0.42 mmol, 2.0 mL, 0.17 g | OC(C1=C(C#N)C=CC=C1)C=1C=C2C=NN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C | C24H31N3OSi
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-({1-[tris(1-methylethyl)silyl]-1H-indazol-5-yl}carbonyl)benzonitrile | 0.070 g, 42% | CC(C)[Si](N1N=CC2=CC(=CC=C12)C(=O)C1=C(C#N)C=CC=C1)(C(C)C)C(C)C | C24H29N3OSi
